US06716878B1
2(R)-[(N-Formyl-N-hydroxyamino)-methyl]-hexanoic Acid-[2,2-dimethyl-1(S)-(pyridine-2-carbonyl)-propyl]-amide
The title compound was prepared from 2-bromopyridine as outlined in Scheme 2, in an analogous manner to 2(R)-[(N-formyl-N-hydroxyamino)-methyl]-hexanoic acid-[2,2-dimethyl-1(S)-(1-methyl-1H-imidazole-2-carbonyl)-propyl]-amide. The relevant spectroscopic data are described below.

reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | 2(R)-[(N-formyl-N-hydroxyamino)-methyl]-hexanoic acid-[2,2-dimethyl-1(S)-(1-methyl-1H-imidazole-2-carbonyl)-propyl]-amide | CC([C@@H](C(=O)C=1N(C=CN1)C)NC([C@H](CCCC)CN(O)C=O)=O)(C)C | C18H30N4O4
product | 2(R)-[(N-Formyl-N-hydroxyamino)-methyl]-hexanoic Acid-[2,2-dimethyl-1(S)-(pyridine-2-carbonyl)-propyl]-amide | CC([C@@H](C(=O)C1=NC=CC=C1)NC([C@H](CCCC)CN(O)C=O)=O)(C)C | C19H29N3O4
